US07498337B2
tert-butyl {[5-(2-fluoro-5-methoxyphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
tert-Butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (431 mg), (2-fluoro-5-methoxyphenyl)boronic acid (256 mg), sodium hydrogencarbonate (253 mg) and tetrakis(triphenylphosphine)palladium (174 mg) were added to a degassed mixture of 1,2-dimethoxyethane (8 mL) and water (2 mL), and the mixture was stirred under a nitrogen atmosphere at 90° C. for 1 hr. The reaction mixture was allowed to cool, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1) to give the title compound as a colorless oil (yield 475 mg, about 100%).

reactant | tert-Butyl {[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 431 mg | BrC1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C16H20BrN3O4S
reactant | (2-fluoro-5-methoxyphenyl)boronic acid | 256 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
reactant | sodium hydrogencarbonate | 253 mg | C(O)([O-])=O.[Na+]
reactant | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 174 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | tert-butyl {[5-(2-fluoro-5-methoxyphenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 475 mg, about 100% | FC1=C(C=C(C=C1)OC)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C23H26FN3O5S
